US06569860B2
To 4.0 g (0.0186 mole) of 5-amino-2-phenyl-pyrimidine-4-carboxylic acid in an ice bath was slowly added 48 mL of trifluoroacetic anhydride and the mixture was heated to 50° C. for 5 h. The reaction mixture was filtered, washed with a little trifluoroacetic anhydride and dried. To a suspension of the resulting product in 50 mL of methanol, was added 0.1 mL of 0.5M sodium methoxide in methanol. The mixture was refluxed for 15 minutes, cooled to room temperature, and HCl gas was bubbled in for one hour. After cooling and filtering, the solid was treated with 200 ml of 1N NaOH and 200 ml ether. The organic layer was dried over magnesium sulfate, filtered, evaporated to yield 2.43 g of 5-amino-2-phenyl-pyrimidine-4-carboxylic acid methyl ester, as a yellow solid.

reactant | 5-amino-2-phenyl-pyrimidine-4-carboxylic acid | 0.0186 mole, 4.0 g | NC=1C(=NC(=NC1)C1=CC=CC=C1)C(=O)O | C11H9N3O2
reactant | trifluoroacetic anhydride | 48 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 5-amino-2-phenyl-pyrimidine-4-carboxylic acid methyl ester | 2.43 g | COC(=O)C1=NC(=NC=C1N)C1=CC=CC=C1 | C12H11N3O2
